US06218404B1
From a mixture of N-[3-(4-amino-3-nitrophenoxy)propyl]isoquinoline (250 mg, 0.76 mmol) and stannous dihydrate (860 mg, 3.8 mmol) in EtOH (50 mL) was obtained 220 mg (97%) of N-[(3,4-diaminophenoxy)propyl]-1,2,3,4-tetrahydroisoquinoline as a yellow viscous oil. 1H NMR (CDCl3): 2.00-2.08 (m, 2H), 2.686 (t, 2H, J=7), 2.761 (t, 2H, J=5.5), 2.916 (t, 2H, J=5.5), 3.063 (s, 2H), 3.496 (s, 2H), 3.650 (s, 2H), 3.995 (t, 2H, J=7), 6.267 (dd, 1H, J=8.5; 2.5), 6.340 (d, 1H, J=2.5), 6.670 (d, 1H, J=8.5), 7.01-7.12 (m, 4H).

reactant | N-[3-(4-amino-3-nitrophenoxy)propyl]isoquinoline | 0.76 mmol, 250 mg | NC1=C(C=C(OCCCN2CC3=CC=CC=C3C=C2)C=C1)[N+](=O)[O-] | C18H19N3O3
solvent | EtOH | 50 mL | CCO | C2H6O
product | N-[(3,4-diaminophenoxy)propyl]-1,2,3,4-tetrahydroisoquinoline | 220 mg, 97% | NC=1C=C(OCCCN2CC3=CC=CC=C3CC2)C=CC1N | C18H23N3O
